US07846960B2
6-Bromo-1-methyl-1H-indole-3-carboxylic Acid Methyl Ester
A mixture of 5-bromo-1H-indole-3-carboxylic acid methyl ester (100 mg, 0.394 mmol), potassium carbonate (163 mg, 1.18 mmol) and DMF is stirred at room temperature and iodomethane (30 μL, 0.47 mmol) is added. After 1.5 hours, additional iodomethane (10 μL) is added and the reaction is stirred for 30 minutes, diluted with dichloromethane, and filtered. The filtrate is concentrated under high vacuum, diluted with ethyl acetate, and concentrated to give the title compound (105 mg, 99%). ES/MS m/e 270.0 (M+2).

reactant | 5-bromo-1H-indole-3-carboxylic acid methyl ester | 0.394 mmol, 100 mg | COC(=O)C1=CNC2=CC=C(C=C12)Br | C10H8BrNO2
reactant | potassium carbonate | 1.18 mmol, 163 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | iodomethane | 0.47 mmol, 30 μL | IC | CH3I
reactant | iodomethane | 10 μL | IC | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Bromo-1-methyl-1H-indole-3-carboxylic Acid Methyl Ester | 105 mg, 99% | COC(=O)C1=CN(C2=CC(=CC=C12)Br)C | C11H10BrNO2
